US04889953
12-Cyclohexyldodecyl bromide
To 98 g (0.30 mole) of 1,12-dibromododecane in 300 ml of anhydrous tetrahydrofuran (THF), cyclohexyl magnesium bromide (0.30 mole) in 300 ml of THF was added dropwise at 10°-15° C. over a period of 1.5 hours in the presence of 0.5 mole percent of dilithium tetrachlorocuprate (Li2CuCl4), and the mixture was stirred at room temperature overnight. To the reaction mixture 16 ml of 2N sulfuric acid was added until pH became about 2, and about 500 ml of ethyl acetate was added. The insoluble material was filtrated off, and the filtrate was washed with water, saturated aqueous solution of sodium hydrogencarbonate, and water, successively, and dried over anhydrous magnesium sulfate. The organic layer was concentrated under reduced pressure, and the resulting oil was subjected to distillation under reduced pressure. The distillate having a boiling point of 166°-167° C. (0.3 mm Hg) was collected, to give 40 g (40%) of the above-captioned compound.

reactant | 1,12-dibromododecane | 0.30 mole, 98 g | BrCCCCCCCCCCCCBr | C12H24Br2
reactant | cyclohexyl magnesium bromide | 0.30 mole | C1(CCCCC1)[Mg]Br
reactant | sulfuric acid | 2N, 16 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethyl acetate | about 500 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | THF | 300 ml | O1CCCC1 | C4H8O
catalyst | dilithium tetrachlorocuprate | [Li+].[Li+].[Cl-].[Cl-].[Cl-].[Cl-].[Cu+2]
product | 12-Cyclohexyldodecyl bromide | 40 g, 40% | C1(CCCCC1)CCCCCCCCCCCCBr | C18H35Br
